US05721245
A solution of 1.0 g of 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(3-benzofuranyl)furan-2,5-dione in 100 ml of chloroform was treated with 13.8 ml of hexamethyldisilazane and 2.73 ml of methanol and the solution obtained was heated to 50° C. while stirring under a nitrogen atmosphere for 6 hours. An additional 13.8 ml of hexamethyldisilazane and 2.73 ml of methanol were added and the heating was continued for 16 hours. Two more additions of the same quantities of hexamethyldisilazane and methanol were effected and the temperature of the mixture was held at 50° C. for an additional 24 hours. Then, 20 ml of methanol were added and the mixture was heated to reflux for 15 minutes, cooled and concentrated. The precipitate was filtered off and triturated in succession with ethyl acetate and methanol. There were obtained 630 mg of 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(3-benzofuranyl)-1H-pyrrole-2,5-dione of melting point 234°-237° C.

reactant | 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(3-benzofuranyl)furan-2,5-dione | 1.0 g | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=COC3=C2C=CC=C3)=O)=O)CC1 | C27H21NO6
reactant | hexamethyldisilazane | 13.8 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 2.73 ml | CO | CH4O
reactant | hexamethyldisilazane | 13.8 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 2.73 ml | CO | CH4O
reactant | methanol | 20 ml | CO | CH4O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(3-benzofuranyl)-1H-pyrrole-2,5-dione | 630 mg | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=COC3=C2C=CC=C3)=O)=O)CC1 | C27H22N2O5
